US05925627
2-Benzyloxy-5-(trifluoromethoxy)bromobenzene
2-Bromo-4-(trifluoromethoxy)phenol (Preparation 8; 5 g, 20 mmol) was dissolved in N,N-dimethylformamide (60 ml), and potassium carbonate (5.4 g, 40 mmol) was added, followed by benzyl bromide (3.5 ml, 30 mmol), and the reaction was stirred at ambient temperature for 15 hours. The reaction was diluted with water (150 ml) and extracted into ethyl acetate (3×60 ml). The combined organic fractions were washed with water (100 ml), brine (100 ml), dried (MgSO4) and evaporated in vacuo. Purification on silica, eluting with 2% and 5% ethyl acetate in hexane gave the title compound as a clear oil (6.7 g, 96%). 1H NMR (250 MHz, CDCl3) δ 5.47 (2H, s), 7.23 (1H, d, J=9 Hz), 7.43 (1H, dd J=8.2, 2.9 Hz), and 7.75 (6H, m).

reactant | 2-Bromo-4-(trifluoromethoxy)phenol | 20 mmol, 5 g | BrC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4BrF3O2
reactant | potassium carbonate | 40 mmol, 5.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 30 mmol, 3.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 2-Benzyloxy-5-(trifluoromethoxy)bromobenzene | 6.7 g, 96% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC(F)(F)F)Br | C14H10BrF3O2
